US06603012B2
7.1. Preparation of (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanal
A solution of 0.35 ml of oxalyl chloride in 20 ml of methylene chloride was treated, at −78° C., with 0.4 ml of DMSO absolute. The mixture was stirred at −78° C. for 5 minutes then 554 mg of (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanol dissolved in 4 ml of methylene chloride were added dropwise. The reaction mixture was stirred at −78° C. for 15 minutes. 1.3 ml of triethylamine were added and the mixture was stirred 15 minutes at −78° C. then 2.5 hours at room temperature. The mixture was quenched with 20 ml water and extracted with 3 portions of 20 ml of methylene chloride. The combined extracts were washed with 2 portions of 5 ml of water and 1 portion of 50 ml of a saturated aqueous solution of NaCl. The organic phase was dried over MgSO4 and the solvent evaporated to yield a yellow oil. The product was purified with flash chromatography (SiO2, 5% ethyl acetate/hexanes), to yield 483 mg of a colorless oil, 1H NMR (CDCl3): 9.64 (d, J=2.0 Hz, 1H), 7.30 (d, J=8.4 Hz, 1H), 7.08 (d, J=3.0 Hz, 1H), 6.95 (dd, J=8.4, 3.0 Hz, 1H), 3.43 (td, J=7.2, 2.0 Hz, 1H), 2.05 (m, 1H), 1.70 (m, 1H), 1.68 (s, 4H), 1.22-1.40 (m, 6H), 1.27 (s, 12H), 0.86 (m, 3H).

reactant | oxalyl chloride | 0.35 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.4 ml | CS(=O)C | C2H6OS
reactant | (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanol | 554 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(CO)CCCCC)C | C21H34O
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanal | 483 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C=O)CCCCC)C | C21H32O
